US03969463
6-(N,N-Dimethylamino)quinaldine was reduced with rhodium on carbon to give 6-(N,N-dimethylamino)-2-methyltetrahydroquinoline.

reactant | 6-(N,N-Dimethylamino)quinaldine | CN(C)C=1C=C2C=CC(=NC2=CC1)C | C12H14N2
catalyst | rhodium on carbon | [Rh] | Rh
product | 6-(N,N-dimethylamino)-2-methyltetrahydroquinoline | CN(C)C=1C=C2CCC(NC2=CC1)C | C12H18N2
